US06566357B1
Preparation of 4-methylenepyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester (1):
To a suspension of NaH (3.81 g, 95.4 mmol) in DMF (80 mL) is add dropwise a solution of N-Cbz-N′-Boc-hydrazine (12.1 g, 45.4 mmol) in DMF (20 mL). The reaction mixture is stirred about 20 minutes and 3-chloro-2-chloromethyl-propene ( 5.8 mL, 50 mmol) is added dropwise and the reaction is allowed to stir at room temperature unit the reaction is complete by TLC. The reaction solution is partitioned between ethyl acetate and water, the water layer being extracted several times more with solvent. The combined organic layers are dried, filtered, and concentrated to afford the desired product as a clear oil which is used without further purification.

reactant | NaH | 95.4 mmol, 3.81 g | [H-].[Na+]
reactant | N-Cbz-N′-Boc-hydrazine | 45.4 mmol, 12.1 g | C(=O)(OCC1=CC=CC=C1)NNC(=O)OC(C)(C)C | C13H18N2O4
reactant | 3-chloro-2-chloromethyl-propene | 50 mmol, 5.8 mL | ClCC(=C)CCl | C4H6Cl2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-methylenepyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester | C(C)(C)(C)OC(=O)N1N(CC(C1)=C)C(=O)OCC1=CC=CC=C1 | C17H22N2O4
